US07375115B2
N-[1-[2-[1-(Cyanomethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
To a solution of N-[1-[2-[1-(carbamoylmethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (154 mg) dissolved in dichloromethane (3 mL) was added triethylamine (0.10 mL). Methanesulfonyl chloride (0.038 mL) was added to the solution under ice cooling. After allowing the temperature to rise to room temperature, the solution was stirred for 24 hours. Triethylamine (0.14 mL) and methanesulfonyl chloride (0.063 mL) were further added to the solution under ice cooling. The solution was stirred at room temperature for 24 hours. Water was added to he solution and it was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography (silica gel, chloroform:methanol=20:1) to give the title compound (133 mg).

reactant | N-[1-[2-[1-(carbamoylmethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 154 mg | C(N)(=O)CC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C26H36N4O3
reactant | triethylamine | 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.038 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.063 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[1-[2-[1-(Cyanomethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 133 mg | C(#N)CC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C26H34N4O2
